US04590201
A stirred suspension of 2-cyanoacetamide (378 mg, 4.50 mmol) in ethanol (15 ml) was treated with sodium methoxide (236 mg, 4.37 mmol), refluxed 10 minutes, cooled slightly, and treated with 4-(4-chlorobenzoyl)-3-chlorobenzyl azide (1.03 g, 3.36 mmol) dissolved in ethanol (4 ml). The mixture was refluxed 2 hours, cooled to ambient temperature, and filtered. The solids were washed with ethanol, and the combined filtrate and wash were evaporated to dryness under vacuum. The residue was dissolved in 19:1 (v/v) dichloromethane-methanol (40 ml) and chromatographed on a column of silica gel (60 g) eluted in 20 ml fractions with 97:3 (v/v) dichloromethane-methanol. Fractions 15-42 were combined and evaporated under vacuum to provide 402 mg (32%) of 5-amino-1-(4-[4-chlorobenzoyl]-3-chlorobenzyl)-1,2,3-triazole-4-carboxamide, m.p. 203°-205° C.

reactant | 2-cyanoacetamide | 4.50 mmol, 378 mg | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 4.37 mmol, 236 mg | C[O-].[Na+]
reactant | 4-(4-chlorobenzoyl)-3-chlorobenzyl azide | 3.36 mmol, 1.03 g | ClC1=CC=C(C(=O)C2=C(C=C(CN=[N+]=[N-])C=C2)Cl)C=C1 | C14H9Cl2N3O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-amino-1-(4-[4-chlorobenzoyl]-3-chlorobenzyl)-1,2,3-triazole-4-carboxamide | 402 mg, 32% | NC1=C(N=NN1CC1=CC(=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)Cl)C(=O)N | C17H13Cl2N5O2
